US09023846B2
STEP B: 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid
5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (1.08 g, 5.14 mmol, prepared as described in the previous step) was dissolved in MeOH (15 mL), and H2O (15 mL) and 2.5 M aqueous NaOH (5.00 mL, 12.5 mmol) was added. The resulting mixture was stirred at room temperature for 72 h, and then extracted with Et2O (2×10 mL). The aqueous layer was acidified to ca. pH 2 using 3 M aqueous HCl and extracted with DCM (3×20 mL). The combined organic extracts were dried over anhydrous MgSO4 and filtered, and the solvent was removed under reduced pressure to yield the title compound as a white solid. 1H-NMR (400 MHz, CDCl3) δ: 6.80 (s, 1H), 4.15 (s, 3H), 1.32 (s, 9H).

reactant | 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)C(C)(C)C)C | C11H18N2O2
reactant | H2O | 15 mL | O | H2O
reactant | NaOH | 12.5 mmol, 2.5 M, 5.00 mL | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 5-tert-Butyl-2-methyl-2H-pyrazole-3-carboxylic acid | C(C)(C)(C)C=1C=C(N(N1)C)C(=O)O | C9H14N2O2
